US07566733B2
2-[5,6-Dichloro-2-(2,2,2-trifluoro-ethyl)-benzoimidazol-1-yl]-ethanol
To [5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-benzimidazol-1-yl]-acetic acid ethyl ester (915 mg) in toluene (20 mL) at −78° C. was added DiBAl—H (3.43 mls of 1.5 M in toluene). The resulting mixture was stirred for 1 hour. The reaction mixture was quenched with Rochelle's salt (aq), extracted with EtOAc, and dried over Na2SO4. The extracts were concentrated to a toluene solution and ethanol (10 mL) was added. To the resulting solution was added NaBH4 (533 mg). The resulting mixture was stirred for 5 hour. The reaction mixture was quenched with water, extracted with EtOAc, and dried over Na2SO4. The crude product was purified by silica gel chromatography (15%-60% EtOAc/hexanes) to yield the title compound as a yellow solid.

reactant | [5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-benzimidazol-1-yl]-acetic acid ethyl ester | 915 mg | C(C)OC(CN1C(=NC2=C1C=C(C(=C2)Cl)Cl)CC(F)(F)F)=O | C13H11Cl2F3N2O2
reactant | DiBAl—H | 1.5 M, 3.43 mls | CC(C)C[AlH]CC(C)C
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[5,6-Dichloro-2-(2,2,2-trifluoro-ethyl)-benzoimidazol-1-yl]-ethanol | ClC1=CC2=C(N(C(=N2)CC(F)(F)F)CCO)C=C1Cl | C11H9Cl2F3N2O
